US08067408B2
N-[(6-Cyano-3′-{[(3R,5S)-3,5-dimethyl-1-piperazinyl]methyl}-3-biphenylyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-1,3-benzenedicarboxamide
N-[(6-Cyano-3′-formyl-3-biphenylyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-1,3-benzenedicarboxamide (108 mg, 0.000161 mol) in DCM (4 mL) and (2R,6S)-2,6-dimethylpiperazine (26.7 mg, 0.00023 mol) were mixed with sodium triacetoxyborohydride (68.3 mg, 0.00032 mol) and AcOH (11.6 mg, 11 μL). This solution was stirred overnight at room temperature. LC-MS showed that the reaction was complete. The reaction was quenched with sat. aq. NaHCO3, then extracted with DCM (2×). The combined organic extracts were washed with sat. aq. NaCl, dried (Na2SO4) and concentrated to a glassy foam (122.9 mg). Purification was carried out on Gilson instrument with acetonitrile-water (0.1% TFA) gradient; C18-RP column. Fractions containing the clean desired product were combined; diluted with EtOAc; washed with sat. aq. NaHCO3; and the aq. phase was back-extracted with EtOAc. Combined organic layers were washed with sat. aq. NaCl and dried (Na2SO4) and concentrated to a residue. It was taken up in a small amount of DCM and transferred to a vial and pumped down to afford the title compound as a white solid [62.3 mg (51%)]. LC-MS m/z 769.7 (M+H)+.

reactant | N-[(6-Cyano-3′-formyl-3-biphenylyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-1,3-benzenedicarboxamide | 0.000161 mol, 108 mg | C(#N)C1=CC=C(C=C1C1=CC(=CC=C1)C=O)CNC(=O)C1=CC(=CC=C1)C(=O)NCC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2 | C39H39N7O4
reactant | (2R,6S)-2,6-dimethylpiperazine | 0.00023 mol, 26.7 mg | C[C@H]1N[C@H](CNC1)C | C6H14N2
reactant | sodium triacetoxyborohydride | 0.00032 mol, 68.3 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | AcOH | 11 μL, 11.6 mg | CC(=O)O | C2H4O2
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
product | N-[(6-Cyano-3′-{[(3R,5S)-3,5-dimethyl-1-piperazinyl]methyl}-3-biphenylyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-1,3-benzenedicarboxamide | 62.3 mg, 51% | C(#N)C1=CC=C(C=C1C1=CC(=CC=C1)CN1C[C@H](N[C@H](C1)C)C)CNC(=O)C1=CC(=CC=C1)C(=O)NCC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2 | C45H53N9O3
